US05523280
1.5 g (0.0061 mol) of 2'-nitro-3'-chloro-2-(methylthio)acetophenone are prepared by addition at 0° C. of 1.3 g (0.018 mol) of sodium methanethiolate in solution in 10 ml of methanol to 4.7 g (0.0168 mol) of 2'-nitro-3'-chloro-2-bromoacetophenone obtained above.

reactant | sodium methanethiolate | 0.018 mol, 1.3 g | C[S-].[Na+]
reactant | 2'-nitro-3'-chloro-2-bromoacetophenone | 0.0168 mol, 4.7 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)C(CBr)=O | C8H5BrClNO3
solvent | methanol | 10 ml | CO | CH4O
product | 2'-nitro-3'-chloro-2-(methylthio)acetophenone | 0.0061 mol, 1.5 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)C(CSC)=O | C9H8ClNO3S
